US07572808B2
Preparation of 7,8-bis(4-cyanophenyl)-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring, degassed mixture of 7-bromo-8-iodo-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (50 mg, 0.13 mmol), 4-cyanophenylboronic acid (40 mg, 0.28 mmol), and tetrakis(triphenylphosphine)palladium (7 mg, 0.006 mmol) in dioxane (1.0 mL) at 20° C. was added K2CO3 (40 mg, 0.25 mmol) in water (0.3 mL). The resulting reaction mixture was heated in a microwave reactor at 200° C. for 10 min under argon. Analysis by HPLC/MS indicated that starting material had been consumed. The reaction mixture was brought to room temperature and was concentrated under reduced pressure. The crude product was purified by reverse phase preparative HPLC (acetonitrile-water-TFA) to isolate the title compound (15 mg, 0.038 mmol) as a yellow solid. MS: [M+H]+=394.

reactant | 7-bromo-8-iodo-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.13 mmol, 50 mg | BrC1=C(C=2N(C=C1)C(N(N2)CC(C)C)=O)I | C10H11BrIN3O
reactant | 4-cyanophenylboronic acid | 0.28 mmol, 40 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | K2CO3 | 0.25 mmol, 40 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.3 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.006 mmol, 7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7,8-bis(4-cyanophenyl)-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.038 mmol, 15 mg | C(#N)C1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC(C)C)=O)C2=CC=C(C=C2)C#N | C24H19N5O
